US06989382B2
To 22 mgs of 2-(2,4-dichlorophenyl)-4-fluoro-1-nitrobenzene in N,N-dimethylformamide was added 1–5 mgs of [2-(methylaminoethyl](5-nitro(2-pyridyl))-amine and 30 μl of N,N-diisopropylethylamine, and the mixture was heated to 85° C. over-night. After partitioning the mixture between ethyl acetate and water the organic layer was concentrated and dried (MgSO4) and recrystallized to yield 6 mgs of N-(2′,4′-dichloro-6-nitro-1,1′-biphenyl-3-yl)-N-methyl-N′-(5-nitropyridin-2-yl)ethane-1,2-diamine.

reactant | 2-(2,4-dichlorophenyl)-4-fluoro-1-nitrobenzene | 22 mgs | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C12H6Cl2FNO2
reactant | 2-(methylaminoethyl](5-nitro(2-pyridyl))-amine | CNCCC1(NC=C(C=C1)[N+](=O)[O-])N | C8H14N4O2
reactant | N,N-diisopropylethylamine | 30 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2′,4′-dichloro-6-nitro-1,1′-biphenyl-3-yl)-N-methyl-N′-(5-nitropyridin-2-yl)ethane-1,2-diamine | 6 mgs | ClC1=C(C=CC(=C1)Cl)C1=CC(=CC=C1[N+](=O)[O-])N(CCNC1=NC=C(C=C1)[N+](=O)[O-])C | C20H17Cl2N5O4
